US05021429
(a) 3-(3-Aminopropoxy)-N,N-dimethylbenzenemethanamine
2-[3-[3-(N,N-Dimethylaminomethyl)phenoxy]propyl]-1H-isoindole-1,3(2H)-dione (25 g) was treated with 30% ethanolic methylamine (150 ml). After 24 hr at room temperature ether (100 ml) was added and a solid was filtered off. The filtrate was distilled to give the title compound as a yellow oil (12.3 g) b.p. 102°-112° (0.2 mm). TLC silica; ethyl acetate:isopropanol:water:0.88 ammonia Rf 0.25.

reactant | 2-[3-[3-(N,N-Dimethylaminomethyl)phenoxy]propyl]-1H-isoindole-1,3(2H)-dione | 25 g | CN(C)CC=1C=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C20H22N2O3
reactant | methylamine | 150 ml | CN | CH5N
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-(3-Aminopropoxy)-N,N-dimethylbenzenemethanamine | 12.3 g | NCCCOC=1C=C(C=CC1)CN(C)C | C12H20N2O
